US03966956
1.84 g of (5-methoxy-2-methyl-3-indoleacetoxy)-benzyl acetate in 19 ml of dimethylformamide, was added to 0.51 g of a suspension of sodium hydride in 20 ml of dimethylformamide, stirred for 20 minutes at 0°C under nitrogen and then 1.19 mol of p-chlorobenzoyl chloride were introduced. The mixture was stirred for 5 hours under nitrogen at 0° to 5°C and thereafter introduced into 115 ml of ether, 115 ml of glacial acetic acid and 230 ml of iced water. The layers were separated and the aqueous phase was extracted by shaking several times with ether. The combined ethereal phases were washed with water, dried and concentrated by evaporation under vacuum. 1.7 g of a crude product were obtained and this was purified by chromatography from cyclohexane-glacial acetic acid (3:1) on kieselguhr. The yield was 0.3 g which corresponds to 11.9% of the theoretical yield with a melting point of 92-94°C. The [1 -(p-chlorobenzoyl)-5-methoxy-2-methyl-3-indoleacetoxy]-benzyl acetate which formed was converted in the manner indicated into the free acid.

reactant | (5-methoxy-2-methyl-3-indoleacetoxy)-benzyl acetate | 1.84 g | C(C)(=O)OC(C1=CC=CC=C1)OC(CC1=C(NC2=CC=C(C=C12)OC)C)=O | C21H21NO5
reactant | sodium hydride | [H-].[Na+]
reactant | p-chlorobenzoyl chloride | 1.19 mol | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | ether | 115 ml | CCOCC | C4H10O
solvent | dimethylformamide | 19 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | 230 ml | O | H2O
solvent | acetic acid | 115 ml | C(C)(=O)O | C2H4O2
product | [1 -(p-chlorobenzoyl)-5-methoxy-2-methyl-3-indoleacetoxy]-benzyl acetate | C(C)(=O)OC(C1=CC=CC=C1)OC(CC1=C(N(C2=CC=C(C=C12)OC)C(C1=CC=C(C=C1)Cl)=O)C)=O | C28H24ClNO6
